US08871756B2
2-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}propane-1,3-diol
A solution of 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (200.0 mg, 0.54 mmol, prepared in analogy to the one in Example 2-1) and 2-aminopropane-1,3-diol (420.0 mg, 4.6 mmol) in 1-methyl-2-pyrrolidinone (1.0 mL) was stirred at 160° C. for 16 hours. After being cooled to room temperature and diluted with water (50 mL), the resulting mixture was extracted with ethyl acetate (100 mL), washed with brine (50 mL×2), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by preparative HPLC to afford 34.6 mg of the product as a white solid (yield was 15%). MS obsd. (ESI+) [(M+H)+] 428, 1H NMR (400 MHz, CD3OD) δ ppm 7.99 (dd, J=7.83, 1.01 Hz, 1 H), 7.86 (d, J=7.07 Hz, 1 H), 7.71-7.58 (m, 2 H), 7.51-7.40 (m, 2 H), 7.36-7.24 (m, 1 H), 6.16 (s, 1 H), 5.16 (s, 2 H), 4.79-4.59 (m, 1 H), 4.54 (brs, 1 H), 3.81 (s, 5 H), 3.69-3.50 (m, 2 H), 2.42 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 2-aminopropane-1,3-diol | 4.6 mmol, 420.0 mg | NC(CO)CO | C3H9NO2
solvent | 1-methyl-2-pyrrolidinone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 50 mL | O | H2O
product | 2-{[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}propane-1,3-diol | 34.6 mg, yield was 15% | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC(CO)CO)C)=O | C22H25N3O4S
